US08012976B2
Ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate
To a solution of 4-(4-fluorobenzylideneamino) isobenzofuran-1(3H)-one (5.0 g, 19.6 mmol) and 1-methyl-1H-1,2,4-triazole-5-carbaldehyde (2.8 g, 25.5 mmol) in ethyl propionate (310 mL) was added sodium ethoxide (1.26 g, 54.9 mmol) at room temperature under nitrogen. The mixture was stirred at 55° C. for 2 hr. Then the resulting mixture was evaporated under reduced pressure and extracted with ethyl acetate (150 mL×4) and concentrated the extracts. The crude product was purified by column chromatography (silica gel, petroleum ether:ethyl acetate=20:1 to 1.5:1). A solid product was obtained (2.4 g, yield 31%). LC-MS (ESI) m/z: 395 (M+1)+.

reactant | 4-(4-fluorobenzylideneamino) isobenzofuran-1(3H)-one | 19.6 mmol, 5.0 g | FC1=CC=C(C=NC2=C3COC(C3=CC=C2)=O)C=C1 | C15H10FNO2
reactant | 1-methyl-1H-1,2,4-triazole-5-carbaldehyde | 25.5 mmol, 2.8 g | CN1N=CN=C1C=O | C4H5N3O
reactant | sodium ethoxide | 54.9 mmol, 1.26 g | [O-]CC.[Na+]
solvent | ethyl propionate | 310 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-fluorophenyl)-3-(1-methyl-1H-1,2,4-triazol-5-yl)-4-oxo-1,2,3,4-tetrahydroquinoline-5-carboxylate | yield 31% | FC1=CC=C(C=C1)C1NC=2C=CC=C(C2C(C1C1=NC=NN1C)=O)C(=O)OCC | C21H19FN4O3
